US07960409B2
Step 3: 4-(3-methylphenyl)-2-oxo-2H-chromene-7-carboxylic acid
To a solution of methyl 4-(3-methylphenyl)-2-oxo-2H-chromene-7-carboxylate (610 mg, 2.1 mmol) in THF (21 mL) a solution of lithium hydroxide (10.3 mL, 10.3 mmol) was added. The solution was then heated at 65° C. for 2 hours. After cooling, volatiles were removed under reduced pressure and the residue obtained was diluted with THF (20 mL) and 2N HCl (40 mL). After 1 h stirring, the solid formed was collected by filtration to afford the title compound. 1H NMR (400 MHz, DMSO-d6): 13.5 (bs, 1H), 7.90 (d, 1H), 7.87 (dd, 1H), 7.59 (d, 1H), 7.48 (t, 1H), 7.43-7.33 (m, 3H), 6.55 (s, 1H), 2.41 (s, 3H).

reactant | methyl 4-(3-methylphenyl)-2-oxo-2H-chromene-7-carboxylate | 2.1 mmol, 610 mg | CC=1C=C(C=CC1)C1=CC(OC2=CC(=CC=C12)C(=O)OC)=O | C18H14O4
reactant | lithium hydroxide | 10.3 mmol, 10.3 mL | [OH-].[Li+]
solvent | THF | 21 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | HCl | 2N, 40 mL | Cl | ClH
product | 4-(3-methylphenyl)-2-oxo-2H-chromene-7-carboxylic acid | CC=1C=C(C=CC1)C1=CC(OC2=CC(=CC=C12)C(=O)O)=O | C17H12O4
